US07544812B2
2-Butoxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester:
A slurry of 2-hydroxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester (7.35 g, 15.62 mmol) and sodium hydride (2.5 g, 62.5 mmol, 60% dispersion on mineral oil) in DMF (50 mL) i stirred for 45 minutes, then cooled to 0° C. Iodobutane (36 mL, 312 mmol, d=1.617) and 18-crown-6 16.5 g, 62.5 mmol) are added, then the reaction mixture is stirred 18 h at ambient temperature and diluted with ethyl acetate. The organic layer is washed, then dried concentrated in vacuo, and diluted with ethanol (400 mL) and 5N NaOH (40 mL). The reaction mixture is refluxed for 1 h, cooled to ambient temperature, and concentrated in vacuo. The residue is washed, dried, concentrated, and re-dissolved in ethanol (300 mL). Concentrated H2SO4 (30 mL) is added to the reaction solution, then the mixture is refluxed 1 h, cooled to ambient temperature, concentrated, and diluted with ethyl acetate. The organic layer is washed, dried, and concentrated to provide the title compound (5.3 g, 65%). 1H NMR (400 MHz, CDCl3): δ 7.17 (d, 2H, J=8.8 Hz), 7.09 (d, 2H, J=8.8 Hz), 6.84 (d, 2H, J=8.8 Hz), 6.70 (d, 2H, J=8.8 Hz), 4.32, 4.28 (ABq, 2H, J=14.7 Hz), 4.17-4.11 (m, 2H), 3.93 (t, 2H, J=5.9 Hz), 3.78 (s, 3H), 3.61-3.53 (m, 3H), 3.40-3.31 (m, 3H), 2.97-2.89 (m, 3H), 2.97-2.89 (m, 3H), 2.81 (s, 3H), 2.25-2.15 (m, 1H), 1.89-1.81 (m, 1H), 1.59-1.49 (m, 2H), 1.42-1.33 (m, 2H), 1.29 (s, 3H), 1.24 (t, 3H, J=7.2 Hz), 0.91 (t, 3H, J=7.2 Hz). Rf=0.43 in 50% acetone in hexanes.

reactant | 2-hydroxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester | 15.62 mmol, 7.35 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)(C)O)=O | C26H34N2O6
reactant | sodium hydride | 62.5 mmol, 2.5 g | [H-].[Na+]
reactant | Iodobutane | 312 mmol, 36 mL | ICCCC | C4H9I
reactant | 18-crown-6 | 62.5 mmol, 16.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butoxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester | 5.3 g, 65% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)(C)OCCCC)=O | C30H42N2O6
